US04435206
To 125 ml of dry xylene is added with stirring 20.7 g of N-(butylcarbamoyl)-2-pyridinesulfonamide. This solution is heated to reflux, and phosgene is added until no further uptake of this gas is observed. It is then cooled, filtered and the solvent is removed in vacuo to yield 2-pyridinesulfonylisocyanate.

reactant | N-(butylcarbamoyl)-2-pyridinesulfonamide | 20.7 g | C(CCC)NC(=O)NS(=O)(=O)C1=NC=CC=C1 | C10H15N3O3S
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | xylene | 125 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-pyridinesulfonylisocyanate | N1=C(C=CC=C1)S(=O)(=O)N=C=O | C6H4N2O3S
